US06174889B1
N4-(1-Benzenesulphonyl-1H-indol-5-yl)-N6,N6-dimethyl-pyrido[3,4-d]pyrimidine-4,6-diamine hydrochloride
Prepared according to Procedure A from 1benzenesulphonyl-1H-indol-5-ylamine and 4-chloro-6-(N,N-dimethylamino)-pyrido[3,4-d]pyrimidine; δH [2H6]DMSO 11.64 (1H,s), 8.90(1H,s), 8.60(4H,m), 7.90(1H,d), 7.65(5H,m), 6.92(1H,d) 3.20(6H,s); m/z (M+) 445.

reactant | 1benzenesulphonyl-1H-indol-5-ylamine | C1(=CC=CC=C1)S(=O)(=O)N1C=CC2=CC(=CC=C12)N | C14H12N2O2S
reactant | 4-chloro-6-(N,N-dimethylamino)-pyrido[3,4-d]pyrimidine | ClC=1C2=C(N=CN1)C=NC(=C2)N(C)C | C9H9ClN4
product | N4-(1-Benzenesulphonyl-1H-indol-5-yl)-N6,N6-dimethyl-pyrido[3,4-d]pyrimidine-4,6-diamine hydrochloride | Cl.C1(=CC=CC=C1)S(=O)(=O)N1C=CC2=CC(=CC=C12)NC=1C2=C(N=CN1)C=NC(=C2)N(C)C | InChI=1S/C23H20N6O2S.ClH/c1-28(2)22-13-19-20(14-24-22)25-15-26-23(19)27-17-8-9-21-16(12-17)10-11-29(21)32(30,31)18-6-4-3-5-7-18;/h3-15H,1-2H3,(H,25,26,27);1H
